US04826854
A solution of 2 g of ethyl 5,6,7,8,9,10,11,12,13,14-decahydro-4-hydroxycyclododeca[b]pyridine-3-carboxylate in 25 ml phosphorus oxychloride is refluxed for 2 hours and evaporated to dryness under reduced pressure. The residue is dissolved in methylene chloride, treated with ice and basified with saturated sodium carbonate solution. The layers are separated, the aqueous phase re-extracted with methylene chloride, and the combined organic layers dried with magnesium sulfate, filtered, and evaporated to dryness to obtain ethyl 4-chloro-5,6,7,8,9,10,11,12,13,14-decahydrocyclododeca[b]pyridine-3-carboxylate as an oil.

reactant | ethyl 5,6,7,8,9,10,11,12,13,14-decahydro-4-hydroxycyclododeca[b]pyridine-3-carboxylate | 2 g | OC1=C2C(=NC=C1C(=O)OCC)CCCCCCCCCC2 | C18H27NO3
reactant | phosphorus oxychloride | 25 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl 4-chloro-5,6,7,8,9,10,11,12,13,14-decahydrocyclododeca[b]pyridine-3-carboxylate | ClC1=C2C(=NC=C1C(=O)OCC)CCCCCCCCCC2 | C18H26ClNO2
